US04751328
16.6 g (0.1 mol) of this m-nitrobenzaldoxime, 22 g (0.5 mol) of a solid CO2, 1 g of Raney nickel catalyst and 150 ml of methanol were charged into an autoclave and hydrogen was charged while maintaining the pressure at 20 to 30 Kg/cm2 ·G. Reaction was continued at temperatures of 20° to 25° C. for 8 hours under stirring. Thereafter, the resulting mixture was filtered to remove the catalyst, added with 6 g (0.15 mol) of sodium hydroxide and was subject to distillation. 10.6 g of m-aminobenzylamine of 99.1% in purity by means of gas chromatography was obtained. Yield 86.9%; B.P. 129°-130° C./5 mmHg; M.P. 39°-42° C.

reactant | m-nitrobenzaldoxime | 0.1 mol, 16.6 g | [N+](=O)([O-])C=1C=C(C=NO)C=CC1 | C7H6N2O3
reactant | CO2 | C(=O)=O | CO2
reactant | hydrogen | [H][H] | H2
reactant | sodium hydroxide | 0.15 mol, 6 g | [OH-].[Na+]
catalyst | Raney nickel | 1 g | [Ni] | Ni
solvent | methanol | 150 ml | CO | CH4O
product | m-aminobenzylamine | 10.6 g, Yield 86.9% | NC=1C=C(CN)C=CC1 | C7H10N2
